US08895547B2
2-Hydroxy-2-methyl-1-phenylpropane-1-sulfonamide
A solution of 2.67 g of N-(2,4-dimethoxybenzyl)-2-hydroxy-2-methyl-1-phenylpropane-1-sulfonamide in 20 ml of dichloromethane was admixed with 3.74 ml of trifluoroacetic acid and stirred at room temperature for 2 hours. The starting solution was coevaporated twice with 100 ml of toluene and the crude product was purified using by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (0.90 g) with a molecular weight of 229.3 g/mol (C10H15NO3S).

reactant | N-(2,4-dimethoxybenzyl)-2-hydroxy-2-methyl-1-phenylpropane-1-sulfonamide | 2.67 g | COC1=C(CNS(=O)(=O)C(C(C)(C)O)C2=CC=CC=C2)C=CC(=C1)OC | C19H25NO5S
reactant | trifluoroacetic acid | 3.74 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Hydroxy-2-methyl-1-phenylpropane-1-sulfonamide | 0.90 g | OC(C(S(=O)(=O)N)C1=CC=CC=C1)(C)C | C10H15NO3S
